US08193228B2
3-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-1,1,1-trifluoro-2-[4-(2H-1,2,3-triazol-2-yl)phenyl]propan-2-ol
Hydrogen chloride (4 M in 1,4-dioxane) (1 mL, 0.25 mmol) was added to an ambient temperature solution of 3-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-1,1,1-trifluoro-2-[4-(2H-1,2,3-triazol-2-yl)phenyl]propan-2-ol (250 mg, 0.42 mmol) in methanol (1 mL). After stirring at 70° C. for 1 h, volatiles were removed in vacuo. The residue was partitioned between diethyl ether and 1 N hydrochloric acid. The aqueous phase was washed with diethyl ether, basified with 2.5 N aqueous sodium hydroxide and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (sodium sulfate) and concentrated in vacuo to afford the title compound. (M+H) found 394

reactant | Hydrogen chloride | 0.25 mmol, 4 M, 1 mL | Cl | ClH
reactant | 3-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-1,1,1-trifluoro-2-[4-(2H-1,2,3-triazol-2-yl)phenyl]propan-2-ol | 0.42 mmol, 250 mg | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(C(F)(F)F)(O)C1=CC=C(C=C1)N1N=CC=N1)(C)C | C38H36F3N5O
solvent | methanol | 1 mL | CO | CH4O
product | 3-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-1,1,1-trifluoro-2-[4-(2H-1,2,3-triazol-2-yl)phenyl]propan-2-ol | CC(CC=1N=C(NC1)CC(C(F)(F)F)(O)C1=CC=C(C=C1)N1N=CC=N1)(C)C | C19H22F3N5O
